US06162815
(a) Synthesis of 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthol
50.8 g (0.27 mol) of 2,5-dichloro-2,5-dimethylhexane, 30 g (0.27 mol) of 2-methylphenol and 500 ml of dichloromethane were introduced into a three-necked flask. 14.8 g (0.11 mol) of aluminum chloride were added in small amounts at 0° C. and the entire contents were stirred at room temperature for twelve hours. The reaction medium was poured into ice-cold water, extracted with dichloromethane, the organic phase decanted off, washed with sodium bicarbonate, dried over magnesium sulfate and evaporated.

reactant | 2,5-dichloro-2,5-dimethylhexane | 0.27 mol, 50.8 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | 2-methylphenol | 0.27 mol, 30 g | CC1=C(C=CC=C1)O | C7H8O
reactant | aluminum chloride | 0.11 mol, 14.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthol | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C15H22O
